US03950353
Reacting 2-chloropyrazine with 1,3-diaminopropane by the procedure of Example 93 gives 2-(3-aminopropylamino)-pyrazine and reacting this intermediate with methyl isothiocyanate gives the title compound.

reactant | 2-chloropyrazine | ClC1=NC=CN=C1 | C4H3ClN2
reactant | 1,3-diaminopropane | NCCCN | C3H10N2
product | 2-(3-aminopropylamino)-pyrazine | NCCCNC1=NC=CN=C1 | C7H12N4
